US04255436
15.8 g. (0.1 mol) of 2-oxo-4,5,5-trimethyl-3-thiazoline-oxime and 15.2 g. (0.15 mol) of triethylamine were dissolved in 100 ml. of anhydrous 1,2-dimethoxy-ethane. 16.1 g. (0.15 mol) of dimethylcarbamoyl chloride were added dropwise. The mixture was refluxed for 3 hours and the solvent was distilled off under vacuum. The residue was dissolved in 100 ml. of dichloromethane and washed with water. After the organic phase was dried over sodium sulfate, the solvent was distilled off. The residue was purified chromatographically on silica gel using ether/dichloromethane (9:1) for the elution to yield 2-oxo-4,5,5-trimethyl-3-thiazoline-O-(dimethylcarbamoyl)-oxime, m.p. 108°-110° C.

reactant | 2-oxo-4,5,5-trimethyl-3-thiazoline-oxime | 0.1 mol | N(O)=C1SC(C(=N1)C)(C)C | C6H10N2OS
reactant | triethylamine | 0.15 mol | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamoyl chloride | 0.15 mol | CN(C(=O)Cl)C | C3H6ClNO
solvent | 1,2-dimethoxy-ethane | COCCOC | C4H10O2
product | 2-oxo-4,5,5-trimethyl-3-thiazoline-O-(dimethylcarbamoyl)-oxime | CN(C(=O)ON=C1SC(C(=N1)C)(C)C)C | C9H15N3O2S
